US07632838B2
To a stirred solution of piperazine-2-one (353.3 mg, 3.5 mmol) and naphthalene-2-sulfonyl chloride (800 mg, 3.5 mmol) in anhydrous dichloromethane (15 mL) was added diisopropylethylamine (1.54 mL, 8.8 mmol). The mixture was stirred for 30 min. Reaction was complete as determined by TLC. The reaction mixture was filtered, washed with hexane to give a first batch. The mother liquor washed with saturated ammonium chloride, then washed with saturated brine, separated, dried over sodium sulphate. Then hexane was added, lots of precipitate formed. The was filtered, washed with hexane to give a second batch. The two batches were combined to yield 4-(naphthalene-2-sulfonyl)-piperazin-2-one in 92.5% yield (947 mg) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 3.35-3.40 (m, 2H) 3.42-3.48 (m, 2H) 3.79 (s, 2H) 6.11 (s, 1H) 7.63-7.73 (m, 2H) 7.77 (dd, J=8.72, 1.89 Hz, 1 H) 7.94 (d, J=7.83 Hz, 1H) 7.98-8.05 (m, 2H) 8.38 (s, 1H).

reactant | piperazine-2-one | 3.5 mmol, 353.3 mg | N1C(CNCC1)=O | C4H8N2O
reactant | naphthalene-2-sulfonyl chloride | 3.5 mmol, 800 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | diisopropylethylamine | 8.8 mmol, 1.54 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(naphthalene-2-sulfonyl)-piperazin-2-one | 92.5% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(NCC1)=O | C14H14N2O3S
